US05104890
A two-phase mixture of 4-hydroxy-N,N-dimethyl-benzenesulfonamide (13 g), 3-chloro-3-methyl-1-butyne (33 g), tetra-n-butylammonium hydrogen sulfate (22 g), and sodium hydroxide (21 g) in a mixture of dichloromethane (195 ml) and water (97.5 ml) was vigorously stirred at room temperature for 48 hours. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was added to n-hexane and pulverized to give N,N-dimethyl-4-(1,1-dimethyl-2-propynyloxy)benzenesulfonamide (6.4 g).

reactant | 4-hydroxy-N,N-dimethyl-benzenesulfonamide | 13 g | OC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H11NO3S
reactant | 3-chloro-3-methyl-1-butyne | 33 g | ClC(C#C)(C)C | C5H7Cl
reactant | sodium hydroxide | 21 g | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulfate | 22 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 195 ml | ClCCl | CH2Cl2
solvent | water | 97.5 ml | O | H2O
product | N,N-dimethyl-4-(1,1-dimethyl-2-propynyloxy)benzenesulfonamide | 6.4 g | CN(S(=O)(=O)C1=CC=C(C=C1)OC(C#C)(C)C)C | C13H17NO3S
